US06284863B1
Production of poly[p-hydroxystyrene/p-(1-(2-oxo-1-pyrrolidinyl)ethoxy)styrene]
Into 200 parts of propylene glycol monomethyl ether acetate was dissolved 50.0 parts of poly(p-vinylphenol) [“VP-2500”, manufactured by Nippon Soda, having a weight average molecular weight of 4,000 and a distribution of 1.15]. The solution was cooled to room temperature and a catalytic amount of p-toluenesulfonic acid was added thereto and dissolved. To this solution was added dropwise 4.63 parts of N-vinyl-2-pyrrolidone over 30 minutes. Then the solution was kept at room temperature for 2 hours. After adding methyl isobutyl ketone, the solution was washed with ion-exchanged water. The organic layer after washing was concentrated to 250 parts, combined with 250 parts of propylene glycol monomethyl ether acetate and further concentrated to 124 parts. The solid content of the concentrate measured by weight-loss on heating was 39.65% by weight. A broad peak at 6.0 ppm was confirmed by 1H-NMR [270 MHz, in (dimethylsulfoxide)-d6] and assigned to the methine proton in —O—CH(CH3)—N<. From the ratio of integrated area for this methine proton and that for the aromatic protons, it was confirmed that the resin was a copolymer constituted by p-hydroxystyrene unit and p-[1-(2-oxo-1-pyrrolidinyl)ethoxy]styrene in a ratio of 91:9. The resin was referred to as Resin R1.

reactant | propylene glycol monomethyl ether acetate | C(C)(=O)OC(COC)C | C6H12O3
reactant | poly(p-vinylphenol) | C#CC1=CC=C(C=C1)O | C8H6O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | N-vinyl-2-pyrrolidone | C(=C)N1C(CCC1)=O | C6H9NO
solvent | methyl isobutyl ketone | C(C(C)C)C(=O)C | C6H12O
product | p-hydroxystyrene p-(1-(2-oxo-1-pyrrolidinyl)ethoxy)styrene | OC1=CC=C(C=C)C=C1.O=C1N(CCC1)C(C)OC1=CC=C(C=C)C=C1 | InChI=1S/C14H17NO2.C8H8O/c1-3-12-6-8-13(9-7-12)17-11(2)15-10-4-5-14(15)16;1-2-7-3-5-8(9)6-4-7/h3,6-9,11H,1,4-5,10H2,2H3;2-6,9H,1H2
